US07700605B2
A mixture of 4-chlorophenylguanidine carbonate (644 mg), 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (373 mg), sodium carbonate (495 mg), palladium (II) acetate (14 mg) and tricyclohexylphosphine (19 mg) in water (1.2 ml) and dioxane (5.7 ml) is kept at 100° C. under micro wave conditions for 200 min. The mixture is cooled down to rt, basified with 1 N NaOH to pH 10.5 and extracted 4 times with EtOAc. The combined organic phases are washed with brine and dried over sodium sulfate. The solvent is evaporated to afford crude N-(3′-hydroxy-biphenyl-4-yl)guanidine.

reactant | 4-chlorophenylguanidine carbonate | 644 mg | C(O)(O)=O.ClC1=CC=C(C=C1)NC(=N)N
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 373 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)O)C | C12H17BO3
reactant | sodium carbonate | 495 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | tricyclohexylphosphine | 19 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | water | 1.2 ml | O | H2O
solvent | dioxane | 5.7 ml | O1CCOCC1 | C4H8O2
catalyst | palladium (II) acetate | 14 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(3′-hydroxy-biphenyl-4-yl)guanidine | OC=1C=C(C=CC1)C1=CC=C(C=C1)NC(=N)N | C13H13N3O
